US04168964
6-phenyl-8-iodo-imidazo[1,5-d]-as-triazin-4(3H)-one
3-[1-(5-Iodo-2-phenyl-4-imidazolyl)ethylidene]-carbazic acid methyl ester (1.01 gm., 0.0027 mole) is dissolved in a mixture of o-dichlorobenzene (150 ml.) and methanol (15 ml.). The solution is heated to the boiling point and boiled for 20 minutes allowing solvent to distill off partially. The reaction mixture is chromatographed over a silica gel column and eluted with a hexane-ethyl acetate (2:1) mixture to yield the title product (0.63 gm., 0.0019 mole). Recrystallization from ethyl acetate-hexane yields the product as yellow needles, m.p. 176°-189° C.

reactant | 3-[1-(5-Iodo-2-phenyl-4-imidazolyl)ethylidene]-carbazic acid methyl ester | 0.0027 mole, 1.01 gm | COC(NN=C(C)C=1N=C(NC1I)C1=CC=CC=C1)=O | C13H13IN4O2
solvent | o-dichlorobenzene | 150 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | methanol | 15 ml | CO | CH4O
product | 6-phenyl-8-iodo-imidazo[1,5-d]-as-triazin-4(3H)-one | 0.0019 mole, 0.63 gm | C1(=CC=CC=C1)C1=NC(=C2N1C(NN=C2)=O)I | C11H7IN4O
